US09290459B1
3-(3-(Difluoromethyl)phenylamino)cyclopent-2-enone
A mixture of cyclopentane-1,3-dione (2.00 g, 20.4 mmol), 3-(difluoromethyl)aniline (2.92 g, 20.4 mmol) and Ytterbium(III) trifluormethanesulfonate (63 mg, 0.10 mmol, 0.5 mol %) is stirred at room temperature for 2 h. Methanol and water are added and the resulting precipitate is filtered and dried. Yield: 2.75 g; ESI mass spectrum: [M+H]+=224; Retention time HPLC: 0.82 min (V012_S01).

reactant | cyclopentane-1,3-dione | 20.4 mmol, 2.00 g | C1(CC(CC1)=O)=O | C5H6O2
reactant | 3-(difluoromethyl)aniline | 20.4 mmol, 2.92 g | FC(C=1C=C(N)C=CC1)F | C7H7F2N
reactant | Ytterbium(III) trifluormethanesulfonate | 0.10 mmol, 63 mg | FC(S(=O)(=O)[O-])(F)F.[Yb+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
reactant | Methanol | CO | CH4O
solvent | water | O | H2O
product | 3-(3-(Difluoromethyl)phenylamino)cyclopent-2-enone | FC(C=1C=C(C=CC1)NC1=CC(CC1)=O)F | C12H11F2NO
